US06214197B1
The ammonium persulfate in the form of crystal thus obtained is re-dissolved in the next step, and is transferred to the step of reaction with sodium hydroxide or potassium hydroxide. In the aforesaid reaction step, a solution containing sodium persulfate or potassium persulfate is produced, then is concentrated and separated by vacuum crystallization, centrifugal filtration or the like and is subsequently taken out as a crystal. As stated hereinbefore, the process for producing sodium persulfate or potassium persulfate by the reaction of ammonium persulfate and sodium hydroxide or potassium hydroxide necessitates quite a long production steps and a number of steps and moreover, lowers the yield of the objective sodium persulfate or potassium persulfate based on the ammonium persulfate, thereby making itself far from economically advantageous.

reactant | ammonium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[NH4+].[NH4+]
reactant | sodium hydroxide | [OH-].[Na+]
reactant | potassium hydroxide | [OH-].[K+]
reactant | sodium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[Na+].[Na+]
product | potassium persulfate | S(=O)(=O)([O-])OOS(=O)(=O)[O-].[K+].[K+] | InChI=1S/2K.H2O8S2/c;;1-9(2,3)7-8-10(4,5)6/h;;(H,1,2,3)(H,4,5,6)/q2*+1;/p-2
